2119-09-17 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No events yesterday.  Nitro drip stopped yesterday.  Patient denied any
   chest pain, shortness of breath.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Heparin Sodium - [**2119-9-17**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-9-17**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 63 (52 - 76) bpm
   BP: 97/48(61) {82/38(49) - 142/99(107)} mmHg
   RR: 21 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,067 mL
                                                                     83 mL
   PO:
                                                                    800 mL
             TF:
   IVF:
                                                                    267 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                  1,000 mL
   Urine:
                                                                  2,620 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,553 mL
                                                                   -917 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: Sclera anicteric. Conjunctiva were pink, no pallor or cyanosis
   of the oral mucosa. No xanthalesma.
   NECK: No carotid bruits.
   CARDIAC: RRR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Distant heart sounds.
   LUNGS: No chest wall deformities. Resp were unlabored, no accessory
   muscle use. CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. Obese. Abd aorta not enlarged by palpation. No
   abdominial bruits.
   EXTREMITIES: No femoral bruits. Right groin dressing is clean, dry, and
   intact. No hematoma.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 2+ PT 2+
   Left: DP 2+ PT 2+
   Labs / Radiology
   192 K/uL
   13.5 g/dL
   117 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.8 mEq/L
   19 mg/dL
   105 mEq/L
   140 mEq/L
   41.3 %
   5.0 K/uL
        [image002.jpg]
                             [**2119-9-16**]  03:14 AM
                             [**2119-9-16**]  06:00 AM
                             [**2119-9-16**]  12:00 PM
                             [**2119-9-17**]  03:12 AM
   WBC
   6.6
   5.0
   Hct
   37.6
   41.3
   Plt
   171
   192
   Cr
   1.1
   1.3
   Glucose
   [**Telephone/Fax (3) 8210**]17
   Other labs: PT / PTT / INR:13.3/35.3/1.1, Ca++:10.1 mg/dL, Mg++:2.6
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 CHEST PAIN
   Mr. [**Known firstname 275**] [**Initial (NamePattern1) **] [**Last Name (NamePattern1) 4964**] [**Known lastname 8175**] is a very nice 60 year-old gentleman with DM2,
   HTN, dyslipidemia, and strong family history of CAD who presented with
   chest pain and was found to have LMCA disease and is awaiting CABG, who
   had CP episode today and is transfered to CV-ICU for monitoring.
   .
   # CAD: Pt presented with DOE, which can be angina-equivalent and with
   CP, which was very suspicious for CAD. TIMI score: 3, which gives him
   13% risk at 14 days of: all-cause mortality, new or recurrent MI, or
   severe recurrent ischemia requiring urgent revascularization. Due to
   high suspision he was sent directly to cardiac cath, which showed LMCA
   and LAD lessions. Given these findings and most importantly in a DM
   patient, he certainly can benefir much more from CABG compared to PCI.
   He was awaiting CABG and had episode of CP without ECG changes while
   hypertensive. It resolved in minutes and with nitroglycerin gtt.
   - Continue Aspirin 325 mg Daily
   - Stopped nitro drip yesterday- patient asymptomatic
   - Pt on heparin gtt
   - On tricor (home dose) and pravastatin
   - no plavix as patient is awaiting CABG
   - Holding BB for now, but will start as needed for target HR of 50-70
   BPM
   - Pt on lisinopril 10 mg daily
   - plan for CABG endoscopic on Monday
   - CXR done yesterday
   - will obtain UA, and TTE prior to procedure
   - monitor on tele
   - Started on Vitamin D 1200 IU per day for decreasing cardiovascular
   risk
   .
   # Pump - No signs of acute heart failure at the time, but patient has
   very low activity suggesting chronic heart failure. Getting
   echocardiogram to assess EF.
   -          Pt on pravastatin, lisinopril; not on beta-blocker
   -          Re-start BB after surgery
   .
   # DM Type II with large insulin dose. Last A1C above goal. Will give
   insulin according to home dose. Hold metformin because of dye load. [**Month (only) 8**]
   need to increase basal insulin dose.
   - ISS
   .
   # HTN: Given bradycardia, will not add Beta-blocker. Will continue home
   lisinopril.
   .
   # Dyslipidemia: Continue Tricor, niacin. Will change to atorvastatin in
   setting of ACS as above.  Normal LFTs.
   .
   # Hypothyroidism: Continue home dose.
   - check TSH given diaphoresis/ heat intolerance.
   .
   # Neck/back pain: Percocet prn.
   .
   # Depression: Continue sertraline.
   .
   # Insomnia: Ambien prn
   .
   # Anxiety: Lorazepam prn
   .
   #. Degenerative disc disease in cervical spine - Pt on percocet for
   pain control. Anesthesia should be aware, given possible cervica
   abnromalities at time of intubation.
   .
   # FEN: NPO tonight for possible IABPC in case CP, CHF or unstability.
   Will monitor electrolytes, Cr.
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS: Low risk for GIB (no prophylaxis needed), Colace/Senna.
   .
   # CODE: Full code.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-9-16**] 01:00 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: low risk for GI bleed
   VAP:
   Comments: Bowel-  colace/senna
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Attending
s Note
   I reviewed data and overnight course.
   Agree with note and Rx plan.
   For CABG in am.
   Spent 30 mins on case
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2119-9-17**] 10:00 ------

2119-09-18 00:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - No events, no CP, no shortness of breath.
   - NPO at MN for planned AM CABG.
   - Written for trazodone and ativan at night for anxiety.
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Heparin Sodium - [**2119-9-17**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-9-18**] 12:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 72 (52 - 96) bpm
   BP: 94/50(59) {94/48(59) - 143/84(94)} mmHg
   RR: 18 (13 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,321 mL
                                                                      4 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                    361 mL
                                                                      4 mL
   Blood products:
   Total out:
                                                                  3,840 mL
                                                                      0 mL
   Urine:
                                                                  3,840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,519 mL
                                                                      4 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: Sclera anicteric. Conjunctiva were pink, no pallor or cyanosis
   of the oral mucosa. No xanthalesma.
   NECK: No carotid bruits.
   CARDIAC: RRR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Distant heart sounds.
   LUNGS: No chest wall deformities. Resp were unlabored, no accessory
   muscle use. CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. Obese. Abd aorta not enlarged by palpation. No
   abdominial bruits.
   EXTREMITIES: No femoral bruits. Right groin dressing is clean, dry, and
   intact. No hematoma.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 2+ PT 2+
   Left: DP 2+ PT 2+
   Labs / Radiology
   192 K/uL
   13.5 g/dL
   194
   1.3 mg/dL
   24 mEq/L
   4.8 mEq/L
   19 mg/dL
   105 mEq/L
   140 mEq/L
   41.3 %
   5.0 K/uL
        [image002.jpg]
                             [**2119-9-16**]  03:14 AM
                             [**2119-9-16**]  06:00 AM
                             [**2119-9-16**]  12:00 PM
                             [**2119-9-17**]  03:12 AM
                             [**2119-9-17**]  06:00 AM
   WBC
   6.6
   5.0
   Hct
   37.6
   41.3
   Plt
   171
   192
   Cr
   1.1
   1.3
   Glucose
   [**Telephone/Fax (3) 8210**]17
   194
   Other labs: PT / PTT / INR:13.3/75.9/1.1, Ca++:10.1 mg/dL, Mg++:2.6
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 CHEST PAIN
   Mr. [**Known firstname 275**] [**Initial (NamePattern1) **] [**Last Name (NamePattern1) 4964**] [**Known lastname 8175**] is a 60 year-old gentleman with DM2, HTN,
   dyslipidemia, and strong family history of CAD who presented with chest
   pain and was found to have LMCA disease, awaiting CABG today, who had
   CP episode and is transferred to CV-ICU for monitoring.
   .
   # CAD: Pt presented with DOE, which can be angina-equivalent and with
   CP, which was very suspicious for CAD. TIMI score: 3, which gives him
   13% risk at 14 days of: all-cause mortality, new or recurrent MI, or
   severe recurrent ischemia requiring urgent revascularization. Due to
   high suspicion he was sent directly to cardiac cath, which showed LMCA
   and LAD lesions. Given these findings and most importantly in a DM
   patient, he certainly can benefit much more from CABG compared to PCI.
   He was awaiting CABG and had episode of CP without ECG changes while
   hypertensive. It resolved in minutes and with nitroglycerin gtt.
   - Continue Aspirin 325 mg Daily
   - Has been off nitro drip - patient asymptomatic
   - Pt on heparin gtt
   - On tricor (home dose) and pravastatin
   - no plavix as patient is awaiting CABG
   - Holding BB for now, but will start as needed for target HR of 50-70
   BPM
   - Pt on lisinopril 10 mg daily
   - plan for CABG endoscopic on Monday
   - preop cxr and UA wnl
   - TTE prior to procedure showed mild symmetric LVH with preserved
   global and regional biventricular systolic function. Mild aortic
   regurgitation. Mildly dilated thoracic aorta.
   - monitor on tele
   - Started on Vitamin D 1200 IU per day for decreasing cardiovascular
   risk
   .
   # Pump - No signs of acute heart failure at the time, but patient has
   very low activity suggesting chronic heart failure. Echo findings as
   above (preserved global and regional biventricular systolic function).
   - Pt on pravastatin, lisinopril; not on beta-blocker
   - Re-start BB after surgery
   .
   # DM Type II with large insulin dose. Last A1C above goal. Will give
   insulin according to home dose. Hold metformin because of dye load. [**Month (only) 8**]
   need to increase basal insulin dose.
   - ISS
   .
   # HTN: Given bradycardia, will not add Beta-blocker. Will continue home
   lisinopril.
   .
   # Dyslipidemia: Continue Tricor, niacin. Will change to atorvastatin in
   setting of ACS as above.  Normal LFTs.
   .
   # Hypothyroidism: Continue home dose.
   - check TSH given diaphoresis/ heat intolerance.
   .
   # Neck/back pain: Percocet prn.
   .
   # Depression: Continue sertraline.
   .
   # Insomnia: Ambien prn
   .
   # Anxiety: Lorazepam prn
   .
   #. Degenerative disc disease in cervical spine - Pt on percocet for
   pain control. Anesthesia should be aware, given possible cervical
   abnromalities at time of intubation.
   .
   # FEN: NPO for possible IABPC in case CP, CHF or instability. Will
   monitor electrolytes, Cr.
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS: Low risk for GIB (no prophylaxis needed), Colace/Senna.
   .
   # CODE: Full code.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-9-16**] 01:00 AM
   18 Gauge - [**2119-9-17**] 04:00 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now